US06518265B1
Ethyl N-triphenylmethyl-4-piperidinecarboxylate
To a solution of 76.5 g of ethyl isonipecotate and 81.5 ml of triethylamine in 750 ml of methylene chloride, 149 g of triphenylmethyl chloride dividied in three portions was added portionwise at room temperature, and the mixture was stirred for 16 hours. The reaction mixture was added with water and extracted with methylene chloride. The extract was washed successively with water and saturated brine, and dried, and then the solvent was evaporated. The resulting brown liquid was added with diisopropyl ether, and the precipitated crystals were collected by filtration and washed with diisopropyl ether to give 184 g of pale yellow crystals. Recrystallization from ethanol gave colorless prisms having the melting point of from 147.5 to 148.5° C.

reactant | ethyl isonipecotate | 76.5 g | N1CCC(C(=O)OCC)CC1 | C8H15NO2
reactant | triethylamine | 81.5 ml | C(C)N(CC)CC | C6H15N
reactant | triphenylmethyl chloride | 149 g | C1(=CC=CC=C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
reactant | water | O | H2O
solvent | methylene chloride | 750 ml | C(Cl)Cl | CH2Cl2
product | Ethyl N-triphenylmethyl-4-piperidinecarboxylate | 184 g | C1(=CC=CC=C1)C(N1CCC(CC1)C(=O)OCC)(C1=CC=CC=C1)C1=CC=CC=C1 | C27H29NO2
